US04324793
Similarly, 61 g of 4-nitro-2-trichloromethylbenzenesulfenyl chloride is reacted with 15 g of 1-propylmercaptan. There is obtained 62 g (89% of theory) of (4-nitro-2-trichloromethylphenyl)-n-propyl disulfide as a yellow oil.

reactant | 4-nitro-2-trichloromethylbenzenesulfenyl chloride | 61 g | [N+](=O)([O-])C1=CC(=C(C=C1)SCl)C(Cl)(Cl)Cl | C7H3Cl4NO2S
reactant | 1-propylmercaptan | 15 g | C(CC)S | C3H8S
product | (4-nitro-2-trichloromethylphenyl)-n-propyl disulfide | 62 g, 89% | [N+](=O)([O-])C1=CC(=C(C=C1)SSCCC)C(Cl)(Cl)Cl | C10H10Cl3NO2S2
